US04910318
4-Methylaminomethyl-5-ethyl-2,3,4,5-tetrahydrothiopyrano[3,2-b]indole 1-oxide
A solution of 4-methylaminomethyl-5-ethyl-2,3,4,5-tetrahydrothiopyrano[3,2-b]indole (1.3 g) in methanol (30 ml) is mixed with an aqueous solution (10 ml) of sodium periodide (1.12 g) and kept at room temperature for 5 hours. The precipitate is filtered off and the filtrate is condensed. The residue is dissolved in methylene chloride, washed with water, dried and evaporated to give the title compound (1.28 g) as an oil: Yield 92.8%.

reactant | 4-methylaminomethyl-5-ethyl-2,3,4,5-tetrahydrothiopyrano[3,2-b]indole | 1.3 g | CNCC1CCSC2=C1N(C=1C=CC=CC21)CC | C15H20N2S
reactant | methanol | 30 ml | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-Methylaminomethyl-5-ethyl-2,3,4,5-tetrahydrothiopyrano[3,2-b]indole 1-oxide | 1.28 g, Yield 92.8% | CNCC1CCS(C2=C1N(C=1C=CC=CC21)CC)=O | C15H20N2OS
